US06933403B2
In the solution of 220 g(2 mol) of resorcinol in 500 ml of acetic acid, 102 g(1 mol) of acetic anhydride was drop-added for one hour while agitating the solution at 110° C. The mixture was maintained at 110° C. for two hours, and acetic acid was distilled under vacuum. 1 liter of toluene was added to the reaction mixture and the unreacted excess hydroquinone was filtered and collected (recovered amount: 110 g, recycled without any purification process). A desired mono acetyl resorcinol was obtained by evaporating the residue under vacuum. (Yield: 149.7 g(98%). mp: oil, 1H-NMR(200 MHz, CDCl3, ppm) 2.29(s, 3H), 6.53-6.67 (m, 4H), 7.18 (t. 1H)

reactant | resorcinol | 2 mol, 220 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | acetic anhydride | 1 mol, 102 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | mono acetyl resorcinol | C(C)(=O)C1=C(O)C=CC=C1O | C8H8O3
